US04954518
3.5 g of 2-ethoxycarbonyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was suspended in 30 ml of acetic acid. Thereto was added 20 ml of concentrated hydrochloric acid. The mixture was refluxed for 1 hour. To the reaction mixture was added 100 ml of water. The resulting crystal was collected by filtration and then recrystallized from ethanol to obtain 3.0 g (yield: 91%) of 2-carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of >250° C.

reactant | 2-ethoxycarbonyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.5 g | C(C)OC(=O)C=1OC2=C(C(C1)=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C19H17NO7S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-carboxy-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 3.0 g, yield: 91% | C(=O)(O)C=1OC2=C(C(C1)=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H13NO7S
